US07977331B1
To a solution of 6-ethyl 9-methyl 12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-6,9-dicarboxylate (270 mg, 0.60 mmol) in tetrahydrofuran (1 ml), methanol (1 ml) and water (1 ml) was added lithium hydroxide monohydrate (30 mg, 0.71 mmol) under ice-cooling, and the mixture was stirred at room temperature for 20 hr. 1N Hydrochloric acid was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure to give 12-cyclohexyl-9-methoxycarbonyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-6-carboxylic acid as a crude product. The obtained crude product was used in Example 3-3 without further purification.

reactant | 6-ethyl 9-methyl 12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-6,9-dicarboxylate | 0.60 mmol, 270 mg | C1(CCCCC1)C=1C2=C(N3CC(OC4=C(C13)C=CC=C4)C(=O)OCC)C=C(C=C2)C(=O)OC | C27H29NO5
reactant | lithium hydroxide monohydrate | 0.71 mmol, 30 mg | O.[OH-].[Li+]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | methanol | 1 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | 12-cyclohexyl-9-methoxycarbonyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-6-carboxylic acid | C1(CCCCC1)C=1C2=C(N3CC(OC4=C(C13)C=CC=C4)C(=O)O)C=C(C=C2)C(=O)OC | C25H25NO5
